US07713969B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2,4-dichlorophenyl) pyrrolidine-2,5-dione was prepared according to Example 40 replacing 2-chloro-4-fluorophenylacetamide with 2,4-dichlorophenylacetamide. Yield 20.9 mg, 5.2%. 1H NMR (DMSO-d6) 400 MHz δ: 11.65 (s, 1H), 7.69 (s, 1H), 7.51 (d, 1H, J=8.0 Hz), 7.43 (d, 1H, J=8.0 Hz), 7.34 (s, 1H), 7.12 (m, 1H), 6.87 (m, 2H), 4.65 (d, 1H, J=7.6 Hz), 4.55 (d, 1H, J=7.6 Hz), 4.10 (t, 2H, J=6.0 Hz), 2.90 (t, 2H, J=6.0), 2.12 (t, 2H, J=6.0 Hz).

reactant | 2-chloro-4-fluorophenylacetamide | ClC1=C(C=CC(=C1)F)CC(=O)N | C8H7ClFNO
reactant | 2,4-dichlorophenylacetamide | ClC1=C(C=CC(=C1)Cl)CC(=O)N | C8H7Cl2NO
product | (±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1yl)-4-(2,4-dichlorophenyl) pyrrolidine-2,5-dione | C1(=CN2CCCC3=CC=CC1=C23)[C@@H]2C(NC([C@H]2C2=C(C=C(C=C2)Cl)Cl)=O)=O | C21H16Cl2N2O2
